US05378690
t-Butyl 3-(1-naphthyl)propionate
18.7 g (0.333 mmole) of potassium hydroxide were added to a solution of 20 g (66.6 mmole) of diethyl (1-naphthyl)methylmalonate dissolved in 200 ml of 80% v/v aqueous methanol, The mixture was then stirred at room temperature for 1 hour, after which it was concentrated by evaporation under reduced pressure. The residue was dissolved in water, and the resulting solution was washed with ethyl acetate. The aqueous solution was acidified with concentrated hydrochloric acid and then extracted with methylene chloride. The organic layer was dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was decarboxylated by heating at 200° C. for 30 minutes, and was then suspended in 200 ml of diethyl ether. 19 ml of t-butanol, 16.5 g (80 mmole) of dicyclohexylcarbodiimide and 0.8 g of N,N-dimethylaminopyridine were added to the suspension. The mixture was allowed to stand for 24 hours. The precipitated insoluble materials were removed by filtration, and the filtrate was concentrated by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel (eluent: methylene chloride), to afford 12.18 g (71.4%) of the title compound as a pale yellow oil.

reactant | potassium hydroxide | 0.333 mmole, 18.7 g | [OH-].[K+]
reactant | diethyl (1-naphthyl)methylmalonate | 66.6 mmole, 20 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OCC)C(=O)OCC | C18H20O4
reactant | t-butanol | 19 ml | C(C)(C)(C)O | C4H10O
reactant | dicyclohexylcarbodiimide | 80 mmole, 16.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methanol | CO | CH4O
product | t-Butyl 3-(1-naphthyl)propionate | 12.18 g, 71.4% | C1(=CC=CC2=CC=CC=C12)CCC(=O)OC(C)(C)C | C17H20O2
